US08859549B2
4-thiomorpholinophthalazin-1(2H)-one
4-chlorophthalazin-1(2H)-one and thiomorpholine were processed using a method similar to that described in Example 1A to afford the title compound. MS (APCI+) M/Z 248 (M+H)+.

reactant | 4-chlorophthalazin-1(2H)-one | ClC1=NNC(C2=CC=CC=C12)=O | C8H5ClN2O
reactant | thiomorpholine | N1CCSCC1 | C4H9NS
product | 4-thiomorpholinophthalazin-1(2H)-one | S1CCN(CC1)C1=NNC(C2=CC=CC=C12)=O | C12H13N3OS
